US05811459
A slurry of 4-[3-(2-benzyloxy-5-methylthiophenyl)-propyl]-N-(2-hydroxyethyl)benzenecarboxamide (0.22 g) in methanol (10 ml) was added to a stirred solution of sodium metaperiodate (0.113 g) in water (1 ml) maintained at 0° C. by external cooling. The reaction mixture was stirred at 0° C. for 2 hours, then concentrated to a volume of approximately 2 ml. This residue was dissolved in ethyl acetate (10 ml), the ethyl acetate solution was dried (anhydrous magnesium sulphate) and the solution evaporated to dryness. The residue was subjected to chromatography on silica (Merck) eluted with a mixture of methanol/ethyl acetate (1:9 v/v). The only porduct obtained was triturated with ethyl acetate (2 ml) to give 4-[3-(2-benzyloxy-5-methylsulphinylphenyl)propyl]-N-(2-hydroxyethyl)-benzenecarboxamide (mp. 105°-108° C.; 43% yield).

reactant | 4-[3-(2-benzyloxy-5-methylthiophenyl)-propyl]-N-(2-hydroxyethyl)benzenecarboxamide | 0.22 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)SC)CCCC1=CC=C(C=C1)C(=O)NCCO | C26H29NO3S
reactant | sodium metaperiodate | 0.113 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 4-[3-(2-benzyloxy-5-methylsulphinylphenyl)propyl]-N-(2-hydroxyethyl)-benzenecarboxamide | 43% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)S(=O)C)CCCC1=CC=C(C=C1)C(=O)NCCO | C26H29NO4S
